US05112834
23. 3-formyl-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine
39.7 ml of 10 N potassium hydroxide solution is added to 85.2 g (400 mmol) (trans)-2-bromo-1-indanol in 600 ml isopropyl alcohol dropwise at room temperature while stirring, and the mixture is stirred for a further 15 minutes at room temperature. The isopropyl alcohol is distilled off at 40° C./5-8 mbar, 350 ml methanol/water (4:1), 30.4 g potassium carbonate and 35.2 g (200 mmol) 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine are added and the mixture is stirred for a further 10 hours at 40° C. and 8 hours at room temperature. The mixture is worked up analogously to Example 21 and the yield of the title compound m.p. 200°-202° C. is 47.2 g (76.5%).

reactant | potassium hydroxide | 10 N, 39.7 ml | [OH-].[K+]
reactant | (trans)-2-bromo-1-indanol | 400 mmol, 85.2 g | Br[C@H]1[C@@H](C2=CC=CC=C2C1)O | C9H9BrO
reactant | potassium carbonate | 30.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-formyl-8-hydroxy-2-methyl-imidazo[1,2-a]pyridine | 200 mmol, 35.2 g | C(=O)C1=C(N=C2N1C=CC=C2O)C | C9H8N2O2
solvent | isopropyl alcohol | 600 ml | C(C)(C)O | C3H8O
solvent | methanol water | 350 ml | CO.O
product | 3-formyl-8-(2-(trans)-hydroxy-2,3-dihydro-1-indenyloxy)-2-methyl-imidazo[1,2-a]pyridine | C(=O)C1=C(N=C2N1C=CC=C2O[C@H]2[C@@H](CC1=CC=CC=C21)O)C | C18H16N2O3
